US04545934
26 g of acetoacetic acid ethyl ester and 15 g of pyrrolidine were boiled in 70 ml of toluene on a water separator until the theoretical quantity of water was separated. The solution was added drop by drop at -40° C. to a suspension of 8.6 g of sodium amide in 300 ml of liquid ammonia. By heating to room temperature, the ammonia was removed. After the reaction solution had been cooled again to 0° C., isopropyl iodide dissolved in 100 ml of toluene was added at the same temperature. The solution was allowed to react for 3 hours at 0° C. The reaction solution was poured into 200 ml of water. The phases were separated and the toluene of the organic phase was removed using a rotary evaporator. Of the residue, 1.2 g of the first runnings was then distilled off at 1.5 torr (2×102Pa) and up to a still temperature of 60° C., which contained above all 2 -isopropyl acetoacetic acid ethyl ester. The brownish oil remaining behind was dissolved in 70 ml of methylene chloride, and 21 g of concentrated hydrochloric acid was added. The material was hydrolyzed for 1.5 hours at ambient temperature. The two phases were separated. The organic phase was dried, the solvent was removed and the residue was distilled. 28.1 g of 5-methyl-3-oxohexanoic acid ethyl ester (82 percent) was obtained.

reactant | acetoacetic acid ethyl ester | 26 g | C(C)OC(CC(=O)C)=O | C6H10O3
reactant | pyrrolidine | 15 g | N1CCCC1 | C4H9N
reactant | water | O | H2O
reactant | water | 200 ml | O | H2O
solvent | toluene | 70 ml | C1(=CC=CC=C1)C | C7H8
product | 5-methyl-3-oxohexanoic acid ethyl ester | 28.1 g, 82 percent | C(C)OC(CC(CC(C)C)=O)=O | C9H16O3
